US04415572
A solution of 11 g of p-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]aniline in 100 ml of benzene was added 4.56 ml of triethylamine and refluxed while adding dropwise a solution of 3.94 g of β-methoxyacryloyl chloride in 20 ml of benzene. After completion of addition, the mixture was refluxed for 1 hour. After completion of reaction, the reaction mixture was washed with water and dried. The solvent was distilled off and the residue was purified through silica gel column chromatography to give 10 g of N-(β-methoxyacryloyl)-p-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]aniline.

reactant | p-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]aniline | 11 g | COC=1C=C(C(=O)N2CCN(CC2)C2=CC=C(N)C=C2)C=CC1OC | C19H23N3O3
reactant | triethylamine | 4.56 ml | C(C)N(CC)CC | C6H15N
reactant | β-methoxyacryloyl chloride | 3.94 g | COC=CC(=O)Cl | C4H5ClO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-(β-methoxyacryloyl)-p-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]aniline | 10 g | COC=CC(=O)NC1=CC=C(C=C1)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | C23H27N3O5
